US08334293B2
Prepare an anhydrous HCl solution by slow addition of acetyl chloride (193.14 mL; 2.71 moles; 4.00 eq) to methanol (1160 mL) over 45 minutes at <5° C. Add the resulting solution to a separate flask containing a solution of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (290 g; 678.46 mmoles) in methanol (2320 mL) over 90 minutes at 20° C. Stir the reaction mixture at 20° C. overnight. Concentrate the reaction mixture under vacuum at 30° C. Add DMSO (1080 mL; 15.20 moles; 1.08 L; 1.19 kg) and the distillation continues until the internal temperature reaches 50° C. at a pressure of 20 mm Hg. Add DMSO until the total volume is 2030 mL. Then add triethylamine (473 mL; 3.39 moles; 5 eq) via addition funnel over 30 minutes. Charge solid 4-chloro-1H-pyrazolo[3,4-d]pyrimidine (110.29 g; 713.58 mmoles; 1.05 eq) in equal portions equally spaced over 30 minutes. Stir the resulting slurry at 20° C. overnight. Heat the slurry to 80° C. Add water (229 mL) to afford a clear solution. Seed the reaction and add more water (1273 mL) slowly over 4 hours to fully crystallize the product. Cool the slurry to 50° C. and filter the solid. Wash the cake with 30% water in DMSO (2×290 mL), then water (290 mL). Dry the solids under vacuum at 60° C. to afford 4-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-1H-pyrazolo[3,4-d]pyrimidine (301 g, 99%) as an off white solid.

reactant | HCl | Cl | ClH
reactant | acetyl chloride | 2.71 moles, 193.14 mL, 4.00 eq | C(C)(=O)Cl | C2H3ClO
reactant | 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 678.46 mmoles, 290 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C21H25F4N3O2
reactant | triethylamine | 3.39 moles, 473 mL, 5 eq | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-1H-pyrazolo[3,4-d]pyrimidine | 713.58 mmoles, 110.29 g, 1.05 eq | ClC1=C2C(=NC=N1)NN=C2 | C5H3ClN4
solvent | methanol | 2320 mL | CO | CH4O
solvent | methanol | 1160 mL | CO | CH4O
solvent | water | 1273 mL | O | H2O
solvent | water | 229 mL | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 15.20 moles, 1080 mL, 1.19 kg | CS(=O)C | C2H6OS
product | 4-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-1H-pyrazolo[3,4-d]pyrimidine | 301 g, 99% | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCN(CC1)C1=C2C(=NC=N1)NN=C2)C(F)(F)F | C21H19F4N7
